US08097759B2
5-Bromo-N-(4-benzyl-5-phenylthiazol-2-yl)-2-hydroxybenzamide (Compound No. 205)
Using 5-bromosalicylic acid and 2-amino-4-benzyl-5-phenylthiazole as the raw materials, the same operation as the example 195(3) gave the title compound. (2-Amino-4-benzyl-5-phenylthiazole: refer to Chem. Pharm. Bull., 1962, 10, 376.)

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2-amino-4-benzyl-5-phenylthiazole | NC=1SC(=C(N1)CC1=CC=CC=C1)C1=CC=CC=C1 | C16H14N2S
product | 5-Bromo-N-(4-benzyl-5-phenylthiazol-2-yl)-2-hydroxybenzamide | BrC=1C=CC(=C(C(=O)NC=2SC(=C(N2)CC2=CC=CC=C2)C2=CC=CC=C2)C1)O | C23H17BrN2O2S
